US06716851B2
4-(5-Chloro-2-hydroxyanilino)-2-(2-pyrazinyl)-6-trifluoromethylpyrimidine
The title compound was prepared from 4-chloro-2-(2-pyrazinyl)-6-trifluoromethylpyrimidine (30 mg, 0.115 mmol) and 5-chloro-2-hydroxyaniline (25 mg, 0.173 mmol) similar to Example 185 and was isolated as a solid (7 mg, 16% yield). 1H NMR (CDCl3): 9.68 (d, J=0.9 Hz, 1H), 8.84 (t, J=2.4 Hz, 1H), 8.60 (d, J=2.4 Hz, 1H), 7.89 (brs, 1H), 7.41 (s, 1H), 7.07 (m, 2H), 6.91 (d, J=8.7 Hz, 1H).

reactant | 4-chloro-2-(2-pyrazinyl)-6-trifluoromethylpyrimidine | 0.115 mmol, 30 mg | ClC1=NC(=NC(=C1)C(F)(F)F)C1=NC=CN=C1 | C9H4ClF3N4
reactant | 5-chloro-2-hydroxyaniline | 0.173 mmol, 25 mg | ClC=1C=CC(=C(N)C1)O | C6H6ClNO
product | 4-(5-Chloro-2-hydroxyanilino)-2-(2-pyrazinyl)-6-trifluoromethylpyrimidine | ClC=1C=CC(=C(NC2=NC(=NC(=C2)C(F)(F)F)C2=NC=CN=C2)C1)O | C15H9ClF3N5O
